US05599966
22. 2-(3-Thienyl)ethyl6-[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamino]hexanoate
According to method I (tetrahydrofuran, reflux 4 days) from {2-(3-thienyl)ethyl}6-bromohexanoate and 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol. Working up by means of chromatography (ethyl acetate/triethylamine 8:1). Recrystallized as the base from diethyl ether. Melting point: 71°-73° C.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | {2-(3-thienyl)ethyl}6-bromohexanoate | S1C=C(C=C1)CCOC(CCCCCBr)=O | C12H17BrO2S
reactant | 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol | NCC(O)C1=CC(=C(C(=C1)Cl)N)Cl | C8H10Cl2N2O
solvent | ethyl acetate triethylamine | C(C)(=O)OCC.C(C)N(CC)CC
product | 2-(3-Thienyl)ethyl6-[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamino]hexanoate | S1C=C(C=C1)CCOC(CCCCCNCC(O)C1=CC(=C(C(=C1)Cl)N)Cl)=O | C20H26Cl2N2O3S
